US08183380B2
rac-1-[2-(7-Methoxy-4-methyl-indan-1-ylamino)-quinolin-6-yl]-3-(1-methyl-piperidin-4-yl)-urea
The title compound was prepared in accordance with the general method 4 described in example 16 from bis(trichloromethyl) carbonate, 1-methyl-piperidin-4-ylamine and rac-N2-(7-methoxy-4-methyl-indan-1-yl)-quinoline-2,6-diamine; MS: m/e=460.8 (M+H+).

reactant | bis(trichloromethyl) carbonate | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 1-methyl-piperidin-4-ylamine | CN1CCC(CC1)N | C6H14N2
reactant | rac-N2-(7-methoxy-4-methyl-indan-1-yl)-quinoline-2,6-diamine | COC=1C=CC(=C2CCC(C12)NC1=NC2=CC=C(C=C2C=C1)N)C | C20H21N3O
product | rac-1-[2-(7-Methoxy-4-methyl-indan-1-ylamino)-quinolin-6-yl]-3-(1-methyl-piperidin-4-yl)-urea | COC=1C=CC(=C2CCC(C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)NC1CCN(CC1)C)C | C27H33N5O2
